US08138175B2
(rac)-4-[4-(4-Hydroxy-4-methyl-piperidin-1-yl)-1-methoxymethyl-butyl]-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one
In analogy to the procedure described in example 23B, (rac)-4-[1-hydroxymethyl-4-(4-hydroxy-4-methyl-piperidin-1-yl)-butyl]-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one was treated with iodomethane and NaH to give the title compound in 25% yield as colorless oil. MS: 472.4 (MH+).

reactant | (rac)-4-[1-hydroxymethyl-4-(4-hydroxy-4-methyl-piperidin-1-yl)-butyl]-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one | OCC(CCCN1CCC(CC1)(C)O)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F | C23H34F3N3O3
reactant | iodomethane | IC | CH3I
reactant | NaH | [H-].[Na+]
product | (rac)-4-[4-(4-Hydroxy-4-methyl-piperidin-1-yl)-1-methoxymethyl-butyl]-1-(3-trifluoromethyl-phenyl)-[1,4]diazepan-5-one | 25% yield | OC1(CCN(CC1)CCCC(COC)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F)C | C24H36F3N3O3
